US05837673
1-[5'-(3"-Hydroxypropyloxy)-2'-nitrophenyl]-2-propen-1-one (1.22 g) and t-butoxycarbonyl-L-alanine (2.76 g) are dissolved in THF (50 ml), and thereto is added with stirring DCC (3.01 g) under ice-cooling. The mixture is reacted at room temperature, and the reaction solution is filtered, concentrated under reduced pressure, and the residue is purified by silica gel column chromatography to give 1-[5'-(3"-t-butoxycarbonyl-L-alanyloxy-propyloxy)-2'-nitrophenyl]-2-propen-1-one (1.19 g).

reactant | 1-[5'-(3"-Hydroxypropyloxy)-2'-nitrophenyl]-2-propen-1-one | 1.22 g | OCCCOC=1C=CC(=C(C1)C(C=C)=O)[N+](=O)[O-] | C12H13NO5
reactant | t-butoxycarbonyl-L-alanine | 2.76 g | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)O | C8H15NO4
reactant | DCC | 3.01 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-[5'-(3"-t-butoxycarbonyl-L-alanyloxy-propyloxy)-2'-nitrophenyl]-2-propen-1-one | 1.19 g, Yield: 58% | C(C)(C)(C)OC(=O)C[C@H](N)C(=O)OCCCOC=1C=CC(=C(C1)C(C=C)=O)[N+](=O)[O-] | C20H26N2O8
